US07384934B2
Combine 7-fluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride (270 mg, 0.95 mmol), (S)-2-(3-methoxy-propyl)-piperazine (330 mg, 2 mmol) in a mixture of toluene and dimethylsulfoxide (1:2) and stir at 110° C. for 24 hours. Evaporate the mixture then purify by flash chromatography, eluting with a step gradient starting with dichloromethane going to 5% 2N ammonia-methanol in dichloromethane gives (S)-7-fluoro-10-[3-(3-methoxy-propyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene (320 mg, 0.82 mmol): mass spectrum (APCI): m/z=389.1 (M+1).

reactant | 7-fluoro-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulen-10-ylamine hydrochloride | 0.95 mmol, 270 mg | Cl.FC1=CC2=C(NC=3SC(=CC3C(=N2)N)C)C=C1
reactant | (S)-2-(3-methoxy-propyl)-piperazine | 2 mmol, 330 mg | COCCC[C@@H]1NCCNC1 | C8H18N2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | (S)-7-fluoro-10-[3-(3-methoxy-propyl)-piperazin-1-yl]-2-methyl-4H-3-thia-4,9-diaza-benzo[f]azulene | 0.82 mmol, 320 mg | FC1=CC2=C(NC=3SC(=CC3C(=N2)N2C[C@@H](NCC2)CCCOC)C)C=C1 | C20H25FN4OS
